US08455665B2
(S)-3-[(R)-2-Ethoxy-1-(naphthalen-1-yloxy)ethyl]pyrrolidine
(S)-3-((R)-2-Ethoxy-1-hydroxyethyl)pyrrolidine-1-carboxylic acid t-butyl ester (200 mg, 0.8 mmol) and 1-fluoronaphthalene were dissolved in DMF (2.7 mL). NaH (27.8 mg, 1.2 mmol) was added and the mixture was stirred at room temperature for 15 minutes, then heated at 120° C. for 4 hours. The mixture was then cooled to room temperature. The mixture was concentrated then dissolved in 1.2M HCl in EtOH (19 mL, 23 mmol) and stirred overnight at room temperature. The product was concentrated and purified by preparative HPLC to yield the title compound as a mono-TFA salt (125 mg, 94% purity). MS m/z: [M+H]+ calcd for C18H23NO2, 286.17. found 286.2.

reactant | (S)-3-((R)-2-Ethoxy-1-hydroxyethyl)pyrrolidine-1-carboxylic acid t-butyl ester | 0.8 mmol, 200 mg | C(C)(C)(C)OC(=O)N1C[C@H](CC1)[C@H](COCC)O | C13H25NO4
reactant | 1-fluoronaphthalene | FC1=CC=CC2=CC=CC=C12 | C10H7F
reactant | NaH | 1.2 mmol, 27.8 mg | [H-].[Na+]
reactant | EtOH | 23 mmol, 19 mL | CCO | C2H6O
solvent | DMF | 2.7 mL | CN(C)C=O | C3H7NO
solvent | HCl | 1.2M | Cl | ClH
product | (S)-3-[(R)-2-Ethoxy-1-(naphthalen-1-yloxy)ethyl]pyrrolidine | C(C)OC[C@H](OC1=CC=CC2=CC=CC=C12)[C@@H]1CNCC1 | C18H23NO2
